US05736548
To a solution of 4-hydroxybenzaldehyde (4.04 g, 33.08 mmol), in acetonitrile (50 ml) was added K2CO3 (10.1 g), followed by N-(2-chloroethyl)morpholine hydrochloride (6.16 g). The reaction mixture was heated to reflux overnight, additional N-(2-chloroethyl)morpholine hydrochloride (0.6 g) and K2CO3 (0.5 g) were added and the mixture was refluxed for another 3 hours. The reaction mixture was cooled to room temperature, filtered, and the filtrate was treated with DARCO®, filtered and the solvent was stripped. The residue was partitioned between saturated NaHCO3 (150 ml) and ethyl acetate (300 ml). The layers were separated and the organic layer was washed with 1N NaOH, dried over MgSO4, filtered and stripped to afford, as an amber oil, 6.41 g of 4-[2-(4-morpholinyl)ethoxy]benzaldehyde.

reactant | 4-hydroxybenzaldehyde | 33.08 mmol, 4.04 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | K2CO3 | 10.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | N-(2-chloroethyl)morpholine hydrochloride | 6.16 g | Cl.ClCCN1CCOCC1
reactant | N-(2-chloroethyl)morpholine hydrochloride | 0.6 g | Cl.ClCCN1CCOCC1
reactant | K2CO3 | 0.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4-[2-(4-morpholinyl)ethoxy]benzaldehyde | 6.41 g | N1(CCOCC1)CCOC1=CC=C(C=O)C=C1 | C13H17NO3
